US08865918B2
3-Fluoro-4-(1-hydroxymethyl-propylamino)-benzonitrile
A 100 mL round bottom flask was charged with 3,4-difluorobenzonitrile (2.013 g, 14.5 mmol), sodium bicarbonate (1.59 g, 18.9 mmol), and L-(−)-2-amino-1-butanol (1.33 mL, 14.5 mmol). The contents were then dissolved in 40 mL N,N-dimethylformamide (anhydrous). The flask was heated to 90° C. and stirred overnight under N2. The reaction mixture was cooled to room temperature, poured onto water, and extracted with EtOAc (2 times). The organic layers were combined, washed with brine, dried (MgSO4), and concentrated. The resulting residue was purified via silica gel chromatography (gradient from 5% EtOAc/Hexanes to 10% EtOAc/Hexanes followed by 50% EtOAc/Hexanes) to afford 1.00 g (33% yield) of the title compound. 1H NMR (CDCl3, 500 MHz) δ: 7.28 (m, 1H), 7.21 (dd, J=11.3, 1.8 Hz, 1H), 6.72 (t, J=8.5 Hz, 1H), 4.49 (s, 1H), 3.77 (m, 1H), 3.68 (dt, J=10.0, 5.3 Hz, 1H), 3.48 (m, 1H), 1.87 (m, 1H), 1.72 (dqn, J=14.5, 7.5 Hz, 1H), 1.60 (dqn, J=14.5, 7.5 Hz, 1H), 1.00 (t, J=7.5 Hz, 3H).

reactant | 3,4-difluorobenzonitrile | 14.5 mmol, 2.013 g | FC=1C=C(C#N)C=CC1F | C7H3F2N
reactant | sodium bicarbonate | 18.9 mmol, 1.59 g | C([O-])(O)=O.[Na+]
reactant | L-(−)-2-amino-1-butanol | 14.5 mmol, 1.33 mL | CC[C@H](CO)N | C4H11NO
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 3-Fluoro-4-(1-hydroxymethyl-propylamino)-benzonitrile | 1.00 g, 33% yield | FC=1C=C(C#N)C=CC1NC(CC)CO | C11H13FN2O
